US05977125
(E)-3-(2-Methoxy-6-isopropoxy-4-pyridyl)-2-butenal
2-Hydroxy-6-methoxy-4-carbomethoxy-pyridine was isopropylated into 2-methoxy-6-isopropoxy-4-carbomethoxy-pyridine in a similar manner to that described in Step 1 of Example 1. The pyridine derivative thus obtained was converted into an aldehyde in a similar manner to that described in Step 2 of Example 1. This aldehyde was treated in a similar manner to that described in Steps 3 to 5 of Example 1 and Steps 1 and 2 of Example 2 to give the title compound.

reactant | 2-Hydroxy-6-methoxy-4-carbomethoxy-pyridine | OC1=NC(=CC(=C1)C(=O)OC)OC | C8H9NO4
reactant | 2-methoxy-6-isopropoxy-4-carbomethoxy-pyridine | COC1=NC(=CC(=C1)C(=O)OC)OC(C)C | C11H15NO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | (E)-3-(2-Methoxy-6-isopropoxy-4-pyridyl)-2-butenal | COC1=NC(=CC(=C1)/C(=C/C=O)/C)OC(C)C | C13H17NO3
